US05175301
In 500 ml of CHCl3 was dissolved 47.3 g (0.33 mole) of 6-chloro-3-pyridylmethanol followed by dropwise addition of 99.3 ml of thionyl chloride with stirring at room temperature. After completion of the dropwise addition, the mixture was further stirred for 1.5 hours and, then, allowed to stand overnight. The CHCl3 was distilled off under reduced pressure, whereby crystals and oil were obtained as a residue. The residue was diluted with ether, collected by filtration and dried to give 45.2 g of 6-chloro-3-pyridylmethyl chloride hydrochloride as white crystals.

reactant | 6-chloro-3-pyridylmethanol | 0.33 mole, 47.3 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | thionyl chloride | 99.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CHCl3 | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 6-chloro-3-pyridylmethyl chloride hydrochloride | 45.2 g | Cl.ClC1=CC=C(C=N1)CCl | InChI=1S/C6H5Cl2N.ClH/c7-3-5-1-2-6(8)9-4-5;/h1-2,4H,3H2;1H
